2176-02-24 07:56:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - continued on heparin gtt overnight
   - had intermittent chest pain overnight associated with nausea,
   responsive to nitro drip though not completely resolved
   - has been anxious overnight
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Erythromycin Base
   Unknown;
   Tetracycline
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 850 units/hour
   Nitroglycerin - 0.38 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2176-2-24**] 07:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**78**] AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.3
C (99.2
   HR: 85 (84 - 93) bpm
   BP: 131/68(85) {111/56(71) - 139/84(94)} mmHg
   RR: 18 (18 - 25) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 103 kg (admission): 103 kg
             Total In:
             102 mL
   PO:
             TF:
   IVF:
   102 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    600 mL
   Urine:
   600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                   -498 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///31/
   Physical Examination
   GENERAL: WDWN woman in NAD. Oriented x3. Mood appropriate
   HEENT: NCAT. Sclera anicteric. EOMI. dry mucus membranes.
   NECK: Supple with JVP of 11 cm.
   CARDIAC: RR, normal S1, S2. early systolic murmur at upper sternal
   border.
   LUNGS: Resp unlabored. CTAB, no crackles, wheezes or rhonchi.
   ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits.
   EXTREMITIES: No c/c/e. 1+ DP pulses bilaterally. Right leg w anterior
   bandage, mild bruising and tenderness on lateral side of right knee
   SKIN: erythematous elbows, skin at mid upper back erythematous, no
   rashes on abdomen or legs
   Labs / Radiology
   126 K/uL
   7.9 g/dL
   82 mg/dL
   0.5 mg/dL
   31 mEq/L
   3.4 mEq/L
   13 mg/dL
   102 mEq/L
   139 mEq/L
   24.5 %
   4.9 K/uL
        [image002.jpg]
                             [**2176-2-23**]  10:28 PM
   WBC
   4.9
   Hct
   24.5
   Plt
   126
   Cr
   0.5
   TropT
   0.03
   Glucose
   82
   Other labs: PT / PTT / INR:16.1/63.8/1.4, CK / CKMB /
   Troponin-T:59//0.03
   Assessment and Plan
   58 year old woman w history of HTN, HLD, DM2, who was transferred from
   an outside hospital 3 days s/p right total knee replacement for NSTEMI.
   .
   # s/p NSTEMI:
   Patient was transferred from outside hospital with mild troponin leak
   and TWIs in septal leads on ECG. She was started on aspirin, plavix,
   and a heparin gtt prior to transfer to [**Hospital1 5**] for possible Cardiac
   Catheterization.  Having continued intermittent chest pain, improved
   with nitro gtt.
   - continue heparin drip
   - continue aspirin, plavix
   - NPO for possible Cardiac Cath, likely Monday
   - nitro drip to help with chest pain
   .
   # Anemia:
   Patient had a blood transfusion one day after knee replacement with
   transfusion reaction.  [**Month (only) 8**] have hemolysis associated with transfusion
   reaction, though likely to have had reaction associated with IgA
   Deficiency which would not typically cause hemolysis.  Not likely to
   have had significant blood loss from knee replacement surgery. No
   hematochezia or melena.
   - trend hematocrit
   - type and screen; crossmatch for washed and deglycerolized pRBCs for
   possible IgA deficiency
   .
   # Right Total Knee Replacement:
   s/p Right Total Knee Replacement three days ago for osteoarthritis.
   - consult PT tomorrow
   - cont percocet for pain
   - continue DVT prophylaxis; on heparin gtt for now for NSTEMI
   - continue dry sterile dressing changes daily
   - skin clips should be DCed on Day#8 and replaced w steri-strips
   - continue weight-bearing as tolerated w walker
   - continue CPM 0-90 deg 2 hours on and 3 hours off while patient is
   awake; will need PT consult tomorrow to get CPM
   - f/u w Dr. [**Last Name (STitle) 11374**] 2 weeks post-operatively ([**Telephone/Fax (1) 11375**]
   .
   # Pruritis:
   Patient has hx of transfusion reaction two days prior to admission to
   this hospital.  Her severe pruritis on day of admission appeared to
   have been secondary to morphine, improved by IV benadryl. Patient has
   hx of dermatitis herpetaformis on elbows, which she gets after eating
   wheat.
   - IV benadryl as needed
   - sarna lotion as needed
   .
   # Anxiety:
   Patient appears highly anxious about hospitalization and transfer to
   [**Location (un) **]. Anxious about diagnosis and ICU stay. Does not appear to
   understand diagnosis.
   - will need further encouragement and explanation
   - may benefit from social work consult
   .
   # Hypertension:
   Patient had some hypotension with nitroglycerin on day of admission.
   - Continue atenolol as tolerated by BP
   - continue to hold HCTZ for now
   .
   # Diabetes Mellitus:
   - hold metformin
   - insulin sliding scale
   .
   # Gastric Ulcers:
   Found on EGD recently.  Patient takes omeprazole at home and was
   recently started on plavix.
   - start famotidine
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2176-2-24**] 12:43 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2176-02-26 06:56:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2176-2-25**] 06:30 PM
   LENI- (-) for clot
   - transfused 2 units PRBCs for severe anemia
   - LENI's showed no evidence of DVT
   - started on sucralfate for gastric ulcers
   - started on atorvastatin 80mg daily.
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Erythromycin Base
   Unknown;
   Tetracycline
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2176-2-25**] 08:31 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2176-2-26**] 06:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**78**] AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.9
C (98.5
   HR: 76 (69 - 86) bpm
   BP: 124/76(87) {90/12(52) - 124/76(87)} mmHg
   RR: 21 (13 - 23) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 103 kg (admission): 103 kg
           Total In:
                                                                  1,610 mL
                                                                    274 mL
   PO:
                                                                    640 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    345 mL
                                                                     79 mL
   Blood products:
                                                                    625 mL
                                                                     75 mL
   Total out:
                                                                  2,300 mL
                                                                    650 mL
   Urine:
                                                                  2,300 mL
                                                                    650 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -690 mL
                                                                   -376 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///26/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal) soft Systolic Murmur upper
   sternal border
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Distended
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Labs / Radiology
   BILAT LOWER EXT VEINS
   Study Date of [**2176-2-25**] 5:55 PM
   No acute deep venous thrombosis within bilateral lower extremities.
   167 K/uL
   8.7 g/dL
   119 mg/dL
   0.5 mg/dL
   26 mEq/L
   3.7 mEq/L
   15 mg/dL
   103 mEq/L
   138 mEq/L
   25.9 %
   6.2 K/uL
        [image002.jpg]
                             [**2176-2-23**]  10:28 PM
                             [**2176-2-24**]  07:16 AM
                             [**2176-2-24**]  04:03 PM
                             [**2176-2-25**]  06:34 AM
                             [**2176-2-25**]  03:30 PM
                             [**2176-2-26**]  05:32 AM
   WBC
   4.9
   4.1
   7.8
   6.2
   Hct
   24.5
   24.2
   24.7
   22.4
   23.9
   25.9
   Plt
   126
   104
   133
   145
   167
   Cr
   0.5
   0.4
   0.5
   0.5
   TropT
   0.03
   Glucose
   82
   138
   173
   136
   119
   Other labs: PT / PTT / INR:18.4/52.3/1.7, CK / CKMB /
   Troponin-T:40/2/0.03, Mg++:1.9 mg/dL
   Assessment and Plan
   58 year old woman w history of HTN, HLD, DM2, who was transferred from
   an outside hospital 3 days s/p right total knee replacement for NSTEMI
   now s/p BMS to RCA patient continues to have some chest pain continue
   to be concerned about pulmonary emoblus.
   .
   #. Chest pain:   s/p NSTEMI.  Mild troponin leak at OSH. ECG suggestive
   of possible RCA involvement, ruled out for PE w CT-A at OSH. She was
   started on aspirin, plavix and heparin gtt prior to [**Hospital1 5**]. Intermittent
   chest pain was improved by nitro gtt on arrival to [**Hospital1 5**].  Now s/p PCI
   at [**Hospital1 5**] w BMS placed in RCA for a 70% stenotic lesion. TTE showed
   depressed RV function with stable LV function. Differential includes
   possibility of PE with right strain and hx of possible multiple small
   PEs a few years ago.  LENIs of lower extremities negative for DVT.
   Atenolol switched to metoprolol yesterday.  Statin added yesterday.
   LDL 61, appropriate.
   - continue heparin drip for potential PE until V/Q scan
   - V/Q scan today
   - continue aspirin and plavix, statin
   - continue metoprolol, low dose ACEi
   .
   #. Anemia:
   Blood counts stable, though transfused 2u pRBCs yesterday.  Has had
   guaiac positive stool in setting of known gastric ulcers. Iron counts
   low.
   - continue to guaiac stools
   - trend hct daily
   - transfuse if signs of ischemia
   - continue famotidine
   .
   #. s/p Right total knee replacement:
   s/p R TKR at outside hospital for osteoarthritis. PT and ortho [**Doctor First Name 91**]
   have been consulted. Ortho recs included continuous motion device and
   weight bearing as tolerated.
   - appreciate ortho recs
   - appreciate PT recs
   - continue percocet for pain prn
   - DVT prophylaxis - will need once d/c heparin drip
   - dry sterile dressing changes daily
   - skin clips should be DCed on Day#8 and replaced w steri-strips
   - f/u w Dr. [**Last Name (STitle) 11374**] 2 weeks post-operatively ([**Telephone/Fax (1) 11375**]
   .
   # Hypertension:
   On metoprolol now rather than home atenolol.
   - per above
   - hold HCTZ
   .
   # Diabetes Mellitus:
   - holding metformin
   - insulin sliding scale
   .
   # Gastric Ulcers:
   Found on EGD recently. Pt has low iron counts.  Has some epigastric
   tenderness on palpation. Patient takes omeprazole at home and was
   recently started on plavix.
   - continue famotidine
   - guaiac stools
   ICU Care
   Nutrition:
   Glycemic Control:  insulin sliding scale
   Lines:
   20 Gauge - [**2176-2-24**] 12:43 AM
   Prophylaxis:
   DVT:   (systemic anticoag )
 heparin gtt
   Stress ulcer:   famotidine
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:  home tomorrow

2176-02-27 07:23:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: 58 y.o woman with history of DM, htn and recent TKA
   who presented post-op day #3 with an NSTEMI, now s/p BMS to 70% RCA
   lesion.
   24 Hour Events:
   - V/Q scan showed Very low probability of pulmonary embolism, so
   heparin gtt was stopped
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Erythromycin Base
   Unknown;
   Tetracycline
   Unknown;
   Latex
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2176-2-26**] 11:00 PM
   Carafate (Sucralfate) - [**2176-2-26**] 11:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2176-2-27**] 07:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**78**] AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.2
C (97.2
   HR: 76 (75 - 93) bpm
   BP: 103/50(63) {90/32(45) - 140/73(85)} mmHg
   RR: 14 (11 - 21) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 103 kg (admission): 103 kg
                  Total In:
                                                                  1,173 mL
                                                                     60 mL
   PO:
                                                                    840 mL
                                                                     60 mL
   TF:
   IVF:
                                                                    258 mL
   Blood products:
                                                                     75 mL
   Total out:
                                                                  2,140 mL
                                                                    450 mL
   Urine:
                                                                  2,140 mL
                                                                    450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -967 mL
                                                                   -390 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///24/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person, place, time, Movement: Not assessed,
   Tone: Not assessed
   Labs / Radiology
   184 K/uL
   9.5 g/dL
   127 mg/dL
   0.5 mg/dL
   24 mEq/L
   4.2 mEq/L
   16 mg/dL
   104 mEq/L
   137 mEq/L
   28.8 %
   8.3 K/uL
        [image002.jpg]
                             [**2176-2-23**]  10:28 PM
                             [**2176-2-24**]  07:16 AM
                             [**2176-2-24**]  04:03 PM
                             [**2176-2-25**]  06:34 AM
                             [**2176-2-25**]  03:30 PM
                             [**2176-2-26**]  05:32 AM
                             [**2176-2-27**]  05:50 AM
   WBC
   4.9
   4.1
   7.8
   6.2
   8.3
   Hct
   24.5
   24.2
   24.7
   22.4
   23.9
   25.9
   28.8
   Plt
   126
   104
   133
   145
   167
   184
   Cr
   0.5
   0.4
   0.5
   0.5
   0.5
   TropT
   0.03
   Glucose
   82
   138
   173
   136
   119
   127
   Other labs: PT / PTT / INR:12.7/23.1/1.1, CK / CKMB /
   Troponin-T:40/2/0.03, Mg++:2.0 mg/dL
   V/Q scan:
   Ventilation images obtained with Tc-[**Age over 90 **]m aerosol in 8 views demonstrate
   central
   clumping, which can be seen in COPD. Perfusion images in the same 8
   views show
   no defect. Chest x-ray shows no focal abnormality.
   The above findings are consistent with a very low probability of
   pulmonary
   embolism.
   IMPRESSION: 1. Very low probability of pulmonary embolism. 2. Central
   clumping
   on ventilation images, which can be seen in COPD.
   Assessment and Plan
   58 year old woman w history of HTN, HLD, DM2, who was transferred from
   an outside hospital 3 days s/p right total knee replacement for NSTEMI
   now s/p BMS to RCA patient continues to have some chest pain continue
   to be concerned about pulmonary emoblus.
   .
   #. Chest pain:   s/p NSTEMI.  Mild troponin leak at OSH. ECG suggestive
   of possible RCA involvement, ruled out for PE w CT-A at OSH. She was
   started on aspirin, plavix and heparin gtt prior to [**Hospital1 5**]. Intermittent
   chest pain was improved by nitro gtt on arrival to [**Hospital1 5**].  Now s/p PCI
   at [**Hospital1 5**] w BMS placed in RCA for a 70% stenotic lesion. TTE showed
   depressed RV function with stable LV function. Differential includes
   possibility of PE with right strain and hx of possible multiple small
   PEs a few years ago.  LENIs of lower extremities negative for DVT.
   Atenolol switched to metoprolol yesterday.  Statin added yesterday.
   LDL 61, appropriate. V/Q scan negative.
   - continue aspirin and plavix, statin
   - continue metoprolol, low dose ACEi
   - follow up with Dr. [**Last Name (STitle) 4588**] in [**Location (un) **].
   .
   #. Anemia:
   Blood counts stable.  Has had guaiac positive stool in setting of known
   gastric ulcers. Iron counts low.
   - continue to guaiac stools
   - trend hct daily
   - transfuse if signs of ischemia
   - continue famotidine
   - continue sucralfate
   - will start iron 325mg daily.
   .
   #. s/p Right total knee replacement:
   s/p R TKR at outside hospital for osteoarthritis. PT and ortho [**Doctor First Name 91**]
   have been consulted. Ortho recs included continuous motion device and
   weight bearing as tolerated.
   - appreciate ortho recs
   - appreciate PT recs
   - continue percocet for pain prn
   - start lovenox for DVT prophylaxis at 40mg qd
   - skin clips should be DCed on Day#8 and replaced w steri-strips
   - f/u w Dr. [**Last Name (STitle) 11374**] 2 weeks post-operatively ([**Telephone/Fax (1) 11375**]
   .
   # Hypertension:
   On metoprolol now rather than home atenolol.
   - per above
   - hold HCTZ given low pressures.
   .
   # Diabetes Mellitus:
   - holding metformin
   - insulin sliding scale
   .
   # Gastric Ulcers:
   Found on EGD recently. Pt has low iron counts.  Patient takes
   omeprazole at home and was recently started on plavix.
   - continue famotidine
   - guaiac stools
   ICU Care
   Nutrition: cardiac heart healthy
   Glycemic Control:  Insulin sliding scale
   Lines:
   20 Gauge - [**2176-2-24**] 12:43 AM
   Prophylaxis:
   DVT: lovenox
   Stress ulcer: famotidine
   VAP:  n/a
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: to rehab today.